US04921856
(a) 3-[4-(3-phthalimidopropyl)benzoyl]-butyric acid methyl ester.
8.2 g (50 mmol) of 3-methoxycarbonyl-2-methyl-propionic acid chloride and 13.3 g (50 mmol) of 3-phthalimidopropyl-benzene are reacted with 26 g of aluminum chloride in 1,2-dichloroethane analogously to Example 4(a). The oil obtained crystallizes from ethanol as beige coloured crystals.

reactant | 3-methoxycarbonyl-2-methyl-propionic acid chloride | 50 mmol, 8.2 g | COC(=O)CC(C(=O)Cl)C | C6H9ClO3
reactant | 3-phthalimidopropyl-benzene | 50 mmol, 13.3 g | C1(C=2C(C(N1CCCC1=CC=CC=C1)=O)=CC=CC2)=O | C17H15NO2
reactant | aluminum chloride | 26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[4-(3-phthalimidopropyl)benzoyl]-butyric acid methyl ester | COC(CC(C)C(C1=CC=C(C=C1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)=O | C23H23NO5
